US04032525
48.6 G. of 4-[2,8-dimethyl-dibenz[b,f]oxepin-10-yl]-1-piperazinecarboxylic acid ethyl ester are dissolved in 750 ml. of glacial acetic acid. 18.9 G. of sodium borohydride are added in small portions within 20 minutes with stirring and cooling in such a manner that the temperature does not exceed 25° C. The mixture is stirred for an additional 30 minutes at 25° C. and then the glacial acetic acid is removed by distillation in vacuo. The residue is partitioned between chloroform and aqueous sodium hydroxide solution. The organic phase is separated and washed with water. The aqueous phases are extracted two additional times with chloroform. The combined chloroform extracts are dried over sodium sulfate, evaporated in vacuo, and there is obtained crude 4-[10,11-dihydro-2,8-dimethyl-dibenz[b,f]oxepin-10-yl]-1-piperazinecarboxylic acid ethyl ester as an oil.

reactant | 4-[2,8-dimethyl-dibenz[b,f]oxepin-10-yl]-1-piperazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C1=CC2=C(OC3=C1C=C(C=C3)C)C=CC(=C2)C | C23H26N2O3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[10,11-dihydro-2,8-dimethyl-dibenz[b,f]oxepin-10-yl]-1-piperazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C1CC2=C(OC3=C1C=C(C=C3)C)C=CC(=C2)C | C23H28N2O3
